Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
endoleak
 
Major Surgical or Invasive Procedure:
Diagnostic Angiogram

 
History of Present Illness:
___ is a ___ patient of Dr. ___ Dr.
___ presents for consultation regarding an aneurysm
status post Gore stent graft with continued leak.  He was a
smoker in the past but has been off cigarettes for a number of
years.  He was diagnosed with a large aneurysm, treated
appropriately with stent graft and found to have an endoleak
treated at two separate times with embolization, what sounds 
like
an ___ and ___ accessory renal artery. He oresents today for 
possible coiling

 
Past Medical History:
PMH: appendectomy, hemorrhoid, and lipoma  
PSH: EVAR with attempts to coil embolization  

 
Social History:
___
Family History:
n/c
 
Physical Exam:
On physical exam, he is a well-developed male, in no acute
distress.  Carotids are 2+ without bruit. Lungs are clear. Heart
is regular rate and rhythm. Abdomen is benign. Neck is supple.
Thyroid is without masses. Neuro is grossly intact.

 
Pertinent Results:
___ 06:50AM BLOOD WBC-8.1 RBC-4.14* Hgb-13.5* Hct-39.4* 
MCV-95 MCH-32.5* MCHC-34.2 RDW-14.6 Plt ___
___ 06:50AM BLOOD Glucose-111* UreaN-14 Creat-1.2 Na-138 
K-3.9 Cl-101 HCO3-29 AnGap-___  was admitted on ___  with endoleak. Agreed to 
have an elective surgery. Pre-operatively, she was consented. A 
CXR, EKG, UA, CBC,  Electrolytes, T/S - were obtained,  all 
other preparations were  made.
 
It was decided that she would undergo:
 
OPERATIONS:

diagnostic angiogram

Prepped, and brought down to the endo suite room for  surgery. 
Intra-operatively, was closely monitored and remained 
hemodynamically stable. Tolerated the procedure well without any 
difficulty or complications.
 
Post-operatively, transferred to the PACU for further 
stabilization and monitoring. 

Sheath pulled without sequel
 
Was then transferred to the VICU for further recovery. While in 
the VICU,  received monitored care. When stable was delined. 
Diet was advanced.  
 
When stabilized from the acute setting of post operative care, 
was then transferred to floor status.
 
On the floor, remained hemodynamically stable with pain 
controlled. Continues to make steady progress without any 
incidents. Discharged home in stable condition.
 
Received preoperative hydration. On DC the creatinine is stable.

PAT done in house, CTA as outpt. Needs stentgraft under GA

 
Medications on Admission:
Simvastatin, Norvasc, Plavix, Atenolol, Allopurinol, and  
Aspirin  

 
Discharge Medications:
1. allopurinol ___ mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  

3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. colchicine 0.6 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
8. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endoleak

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Division of Vascular and Endovascular Surgery

Lower Extremity Angioplasty/Stent Discharge Instructions

Medications:
•Take Aspirin 325mg (enteric coated) once daily 
•If instructed, take Plavix (Clopidogrel) 75mg once daily
•Continue all other medications you were taking before surgery, 
unless otherwise directed
•You make take Tylenol or prescribed pain medications for any 
post procedure pain or discomfort

What to expect when you go home:
It is normal to have slight swelling of the legs:
•Elevate your leg above the level of your heart (use ___ 
pillows or a recliner) every ___ hours throughout the day and at 
night
•Avoid prolonged periods of standing or sitting without your 
legs elevated
•It is normal to feel tired and have a decreased appetite, your 
appetite will return with time 
•Drink plenty of fluids and eat small frequent meals
•It is important to eat nutritious food options (high fiber, 
lean meats, vegetables/fruits, low fat, low cholesterol) to 
maintain your strength and assist in wound healing
•To avoid constipation: eat a high fiber diet and use stool 
softener while taking pain medication

What activities you can and cannot do:
•When you go home, you may walk and go up and down stairs
•You may shower (let the soapy water run over groin incision, 
rinse and pat dry)
•Your incision may be left uncovered, unless you have small 
amounts of drainage from the wound, then place a dry dressing or 
band aid over the area that is draining, as needed
•No heavy lifting, pushing or pulling (greater than 5 lbs) for 
1 week (to allow groin puncture to heal)
•After 1 week, you may resume sexual activity
•After 1 week, gradually increase your activities and distance 
walked as you can tolerate
•No driving until you are no longer taking pain medications
•Call and schedule an appointment to be seen in ___ weeks for 
post procedure check and ultrasound 

What to report to office:
•Numbness, coldness or pain in lower extremities 
•Temperature greater than 101.5F for 24 hours
•New or increased drainage from incision or white, yellow or 
green drainage from incisions
•Bleeding from groin puncture site

SUDDEN, SEVERE BLEEDING OR SWELLING (Groin puncture site)
•Lie down, keep leg straight and have someone apply firm 
pressure to area for 10 minutes. If bleeding stops, call 
vascular office ___. If bleeding does not stop, call 
___ for transfer to closest Emergency Room. 

 
Followup Instructions:
___